US04323676
A process as claimed in claim 17, wherein 7β-[2-(2-imino-4-thiazolin-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid or its salt is reacted with diketene to produce 7β-[2-(2-imino-4-thiazolin-4-yl)-acetamido]-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid or its salt.

reactant | 7β-[2-(2-imino-4-thiazolin-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid | N=C1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C13H14N4O5S2
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 7β-[2-(2-imino-4-thiazolin-4-yl)-acetamido]-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid | N=C1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C17H18N4O7S2
